US08729078B2
In a 50 mL 2-necked flask fitted with a condenser with an argon balloon and a thermometer, 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-chlorobenzyl acetate (489 mg, 1.22 mmol, Eq. 1.00) and bis(pinacolato)diboron (619 mg, 2.44 mmol, Eq: 2) were combined with 1,4-dioxane (20.0 ml) to give a colorless solution. Stirred until all dissolved. The mixture was evacuated and back-filled with argon three times then potassium acetate (359 mg, 3.66 mmol, Eq: 3) was added. Bis(dibenzylideneacetone)palladium (35.1 mg, 61.0 μmol, Eq: 0.05) was added. X-phos (58.1 mg, 122 μmol, Eq: 0.1) was added. The mixture was evacuated and back-filled with argon three times. The reaction mixture was heated to 65° C. and stirred for 18 h. The reaction mixture was cooled to room temperature and poured into 50 mL H2O then extracted with ethyl acetate (4×50 mL). The organics phases were combined and washed with brine. Decolorizing charcoal added to the organic layer. The solution stirred for 5 min. The solution was filtered through Celite and then concentrated in vacuo. The crude material was purified by flash chromatography (silica, 25% ethyl acetate/hexanes) to give 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate (518 mg, 82%): 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.35 (d, J=9.44 Hz, 21H) 1.99 (s, 3H) 2.62 (s, 3H) 4.44 (br. s., 2H) 5.44 (s, 2H) 7.22 (d, J=1.51 Hz, 1H) 7.36-7.58 (m, 3H) 7.87 (dd, J=7.18, 1.89 Hz, 1H) 8.04 (d, J=8.31 Hz, 1H).

reactant | 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-chlorobenzyl acetate | 1.22 mmol, 489 mg | C(C)(=O)OCC1=C(C=CC=C1Cl)N1C(C2=CC=C(C=C2CN1C)C(C)(C)C)=O | C22H25ClN2O3
reactant | bis(pinacolato)diboron | 2.44 mmol, 619 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.66 mmol, 359 mg | C(C)(=O)[O-].[K+]
reactant | X-phos | 122 μmol, 58.1 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Bis(dibenzylideneacetone)palladium | 61.0 μmol, 35.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | 1,4-dioxane | 20.0 ml | O1CCOCC1 | C4H8O2
product | 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate | 518 mg, 82% | C(C)(=O)OCC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C(C2=CC=C(C=C2CN1C)C(C)(C)C)=O | C28H37BN2O5
